US05665718
3.39 g (20 mmol) of 1,1'-carbonyldiimidazole were added in one portion at room temperature to a solution of 5.27 g (20 mmol) of 5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a]thieno[2,3-f][1,4]diazepine-3-carboxylic acid in 50 ml of dimethylformamide and the mixture was stirred at 50° for 30 minutes. Subsequently, 4.47 g (20 mmol) of phthaloylglycinamide oxime were added in one portion and the mixture was stirred at 110° for 15 hours. The dimethylformamide was evaporated in a high vacuum and the residue obtained was treated with 150 ml of water. Extraction with methylene chloride (twice), drying with sodium sulfate, filtration and evaporation yielded a reddish residue, which was subsequently chromatographed (silica gel, methylene chloride/methanol 20:1). After recrystallization from acetonitrile there were obtained 4.21 g (47%) of 5-(5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a]thieno[2,3-f][1,4]diazepin-3-ylmethyl)-2,3-dihydro-1H-isoindole-1,3-dione as pale brown crystals of m.p. 245°-246°.

reactant | 1,1'-carbonyldiimidazole | 20 mmol, 3.39 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a]thieno[2,3-f][1,4]diazepine-3-carboxylic acid | 20 mmol, 5.27 g | CN1CC=2N(C3=C(C1=O)SC=C3)C=NC2C(=O)O | C11H9N3O3S
reactant | water | 150 ml | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 5-(5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a]thieno[2,3-f][1,4]diazepin-3-ylmethyl)-2,3-dihydro-1H-isoindole-1,3-dione | 4.21 g, 47% | CN1CC=2N(C3=C(C1=O)SC=C3)C=NC2CC=2C=C3C(NC(C3=CC2)=O)=O | C19H14N4O3S
